US07365065B2
A solution of 3-chloro-4-(N-(4-chlorobenzenesulphonyl)-N-methylaminomethyl)-thiophene-2-carboxylic acid (57 mg, 0.15 mmol) in thionyl chloride (2 ml) and dichloromethane (5 ml) was heated at reflux for 1 h. The mixture was cooled and reduced in vacuo. The residue was added to a solution of N-(3-methyl-1,2,4-oxadiazol-5-ylmethyl)benzomorpholine-2-carboxamide (40 mg, 0.15 mmol) and triethylamine (42 μl, 0.30 mmol) in dichloromethane (10 ml) and stirred at room temperature for 3 days. The mixture was reduced and chromatography (30% EtOAc/70% hexanes and 100% EtOAc) afforded 4-(3-chloro-4-(N-(4-chlorobenzenesulphonyl)-N-methylaminomethyl)thiophene-2-carbonyl)-N-(3-methyl-1,2,4-oxadiazol-5-ylmethyl)benzomorpholine-2-carboxamide as a colourless oil (31 mg, 33%).

reactant | 3-chloro-4-(N-(4-chlorobenzenesulphonyl)-N-methylaminomethyl)-thiophene-2-carboxylic acid | 0.15 mmol, 57 mg | ClC1=C(SC=C1CN(C)S(=O)(=O)C1=CC=C(C=C1)Cl)C(=O)O | C13H11Cl2NO4S2
reactant | N-(3-methyl-1,2,4-oxadiazol-5-ylmethyl)benzomorpholine-2-carboxamide | 0.15 mmol, 40 mg | CC1=NOC(=N1)CNC(=O)C1CNC2=C(O1)C=CC=C2 | C13H14N4O3
reactant | triethylamine | 0.30 mmol, 42 μl | C(C)N(CC)CC | C6H15N
reactant | EtOAc | CCOC(=O)C | C4H8O2
solvent | thionyl chloride | 2 ml | S(=O)(Cl)Cl | Cl2OS
solvent | dichloromethane | 5 ml | ClCCl | CH2Cl2
solvent | dichloromethane | 10 ml | ClCCl | CH2Cl2
product | 4-(3-chloro-4-(N-(4-chlorobenzenesulphonyl)-N-methylaminomethyl)thiophene-2-carbonyl)-N-(3-methyl-1,2,4-oxadiazol-5-ylmethyl)benzomorpholine-2-carboxamide | 31 mg, 33% | ClC1=C(SC=C1CN(C)S(=O)(=O)C1=CC=C(C=C1)Cl)C(=O)N1CC(OC2=C1C=CC=C2)C(=O)NCC2=NC(=NO2)C | C26H23Cl2N5O6S2
